US08835470B2
(R/S)-Ethyl 2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetate (150 mg, 0.327 mmol) was dissolved in THF (2 mL) at 0° C. and MeOH (0.5 mL) and 1N LiOH (0.327 mL, 0.327 mmol) were added. After stirring for 1 h, the solution was concentrated and then EtOAc was added. The EtOAc was washed with 1 N HCl aqueous. The organic layer was dried (MgSO4), filtered and concentrated to give (R/S)-2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid Int-V (110 mg, 0.240 mmol, 73.4% yield): LCMS=431.9[M+H]+, 1H NMR (400 MHz, methanol-d4) δ ppm 8.19 (2 H, d, J=8.79 Hz), 7.51-7.79 (7 H, m), 5.26 (1 H, s).

reactant | (R/S)-Ethyl 2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetate | 0.327 mmol, 150 mg | OC(C(=O)OCC)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C22H16F3N3O5
reactant | MeOH | 0.5 mL | CO | CH4O
reactant | LiOH | 0.327 mmol, 1N, 0.327 mL | [Li+].[OH-]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (R/S)-2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid | 73.4% yield | OC(C(=O)O)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C20H12F3N3O5
